US07625880B2
A solution of methyl divinyl phosphine oxide (10.73 g, 92.4 mmol) and benzylamine (11.6 mL, 106.3 mmol) in 1:1 THF/water (250 mL) was heated at reflux for 16 hours. The solvents were removed under reduced pressure. The residue was crystallized from CH2Cl2/ether to give 1-benzyl-4-methyl-[1,4]azaphosphinane 4-oxide as a white solid (13.24 g, 64%). 1H NMR (400 MHz, DMSO) δ 7.13-3.37 (5H, m); 3.6 (2H, s); 2.81 (2H, m); 2.59 (2H, m); 1.7-1.9 (4H, m); 1.42 (3H, d, JH-C-P=13.6 Hz). 31P NMR δ32 ppm.

reactant | methyl divinyl phosphine oxide | 92.4 mmol, 10.73 g | CP(C=C)(C=C)=O | C5H9OP
reactant | benzylamine | 106.3 mmol, 11.6 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF water | 250 mL | C1CCOC1.O
product | 1-benzyl-4-methyl-[1,4]azaphosphinane 4-oxide | 13.24 g, 64% | C(C1=CC=CC=C1)N1CCP(CC1)(C)=O | C12H18NOP
